US07256207B2
A solution of 5-fluoroisatin (5 g, 30.2 mmol) in DMF (60 mL) was cooled in an ice/water bath and treated with sodium hydride (1.44 g, 60.6 mmol) portionwise. The reaction was stirred for 15 minutes after the addition of the last portion and then treated with p-methoxybenzyl chloride (5.32 g, 45.3 mmol) and allowed to stir for 1 hour. The reaction was then quenched by slow addition of excess methanol. After bubbling had stopped, the reaction was poured into water (100 mL) and extracted twice with ethyl acetate. The organics were combined, dried over MgSO4 and the solvent was removed. The residue was purified by silica gel chromatography using a gradient of 0-100% ethyl acetate in hexane to afford 7.1 g (82%) of 5-Fluoro-1-(4-methoxy-benzyl)-1H-indole-2,3-dione; 1H NMR (CDCl3, 400 MHz) δ 3.79 (s, 3H), 4.86 (s, 2H), 6.75 (dd, 1H, J=3.6, J2=8.6), 6.84-6.90 (m, 2H), 7.19 (ddd, 1H, J=J2=8.6, J3=3.6), 7.22-7.27 (m, 1H), 7.26-7.31 (m, 2H); HPLC-MS calcd. for C16H12FNO3 (M+H+) 286.1, found 286.3.

reactant | 5-fluoroisatin | 30.2 mmol, 5 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydride | 60.6 mmol, 1.44 g | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 45.3 mmol, 5.32 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-Fluoro-1-(4-methoxy-benzyl)-1H-indole-2,3-dione | 7.1 g, 82% | FC=1C=C2C(C(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)=O | C16H12FNO3
